US05506256
B) (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine
By the same procedure as in Example 26-D), (2S)-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine (297 mg) and N-(tert-butoxycarbonyl)-L-proline (318 mg) were subjected to dehydration condensation reaction to give 274 mg of the title compound.

reactant | (2S)-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine | 297 mg | C(C1=CC=CC=C1)OCC(O)[C@H]1NCCC1 | C13H19NO2
reactant | N-(tert-butoxycarbonyl)-L-proline | 318 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
product | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(2-benzyloxy-1-hydroxyethyl)pyrrolidine | 274 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COCC2=CC=CC=C2)O)CCC1 | C23H34N2O5
